US05262385
First, ethyl 1-chloro-2-oxocyclohexanecarboxylate was prepared from ethyl 2-oxocyclohexanecarboxylate referring to the process described in Organic Synthesis volume 4, page 162. 17 g (0.1 mol) of ethyl 2-oxocyclohexanecarboxylate was dissolved in 50 ml of carbon tetrachloride, and to the solution was added dropwise 14.8 g (0.11 mol) of sulfuryl chloride dissolved in 15 ml of carbon tetrachloride at 0° C. After stirring at room temperature for 2 hours, the reaction solution was poured into 100 ml of ice water, the mixture was extracted three times with 50 ml each of carbon tetrachloride, and the extract was washed twice with 75 ml each of saturated aqueous sodium bicarbonate and once with 75 ml of saturated saline and dried over anhydrous magnesium sulfate. The solvent was distilled away to obtain 18 g (yield: 88%) of ethyl 1-chloro-2-oxocyclohexanecarboxylate. 1.22 ml (2 mmol) of dimethyl sulfide borane was dissolved in 40 ml of tetrahydrofuran, and 2.5 g (12 mmol) of ethyl 1-chloro-2-oxocyclohexanecarboxylate was added dropwise at -5° C. to 0° C. After stirring at 0° C. for 1 hour, the solvent was distilled away under reduced pressure and the reaction solution was poured into 50 ml of ice water. The mixture was extracted three times with 50 ml each of ethyl acetate, and the resulting organic layer was washed once with 75 ml of saturated saline and dried over anhydrous magnesium sulfate. The solvent was distilled away to obtain 2.2 g of a stereoisomer mixture of ethyl 1-chloro-2-hydroxy-1-cyclohexanecarboxylate.

reactant | ethyl 2-oxocyclohexanecarboxylate | O=C1C(CCCC1)C(=O)OCC | C9H14O3
reactant | ethyl 2-oxocyclohexanecarboxylate | 0.1 mol, 17 g | O=C1C(CCCC1)C(=O)OCC | C9H14O3
reactant | sulfuryl chloride | 0.11 mol, 14.8 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 1-chloro-2-oxocyclohexanecarboxylate | 18 g, yield: 88% | ClC1(C(CCCC1)=O)C(=O)OCC | C9H13ClO3
